US07919488B2
Preparation of Intermediate 8: 1-(1-trityl-1H-imidazol-4-yl)ethanol
To a solution of 1-trityl-1H-imidazole-4-carbaldehyde (10.0 g, 0.03 mol) in anhydrous THF (100 mL) was added dropwise methyl magnesium bromide (1.4 M in hexane, 52.8 mL, 0.075 mol) at 0° C. After the addition, the mixture was stirred at RT overnight. The reaction was quenched with sat. aq. NH4Cl (50 mL) and the mixture extracted with CH2Cl2 (3×50 mL). The organic layers were combined, washed with 1 N aq. NaOH (3×20 mL), water (3×20 mL) and brine (100 mL), dried over MgSO4 and evaporated. The residue was purified via column chromatography (silica gel, EtOAc/Petroleum ether 1:5) to yield the title compound (8.0 g, 75.0%) as a white solid.

reactant | 1-trityl-1H-imidazole-4-carbaldehyde | 0.03 mol, 10.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C=O | C23H18N2O
reactant | methyl magnesium bromide | 0.075 mol, 1.4 M, 52.8 mL | C[Mg]Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(1-trityl-1H-imidazol-4-yl)ethanol | 8.0 g, 75.0% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C(C)O | C24H22N2O
